US06541638B2
20 g (54.4 mmol) (2S,4R)-4-(4-Methoxy-benzylsulfanyl)-pyrrolidine-1,2-dicarboxylic acid 1-tert-butyl ester in 1.5 1 CH2Cl2 were treated with 6.6 ml (60 mmol, 1.1 eq) 4-methyl morpholine, 19.4 g (65.3 mmol, 1.2 eq) TPTU and 12.7 g (59.8 mmol) sarcosine benzylester-hydrochloride. The mixture was stirred at RT for 39 h, was concentrated and purified by column chromatography with EtOAc:CH2Cl2 4:1 as eluent yielding 14.2 g (50%) (2S,4R)-2-(benzyloxycarbonylmethyl-methyl-carbamoyl)-4-(4-methoxy-benzylsulfanyl)-pyrrolidine-1-carboxylic acid tert-butyl ester.

reactant | (2S,4R)-4-(4-Methoxy-benzylsulfanyl)-pyrrolidine-1,2-dicarboxylic acid 1-tert-butyl ester | 54.4 mmol, 20 g | C(C)(C)(C)OC(=O)N1[C@@H](C[C@H](C1)SCC1=CC=C(C=C1)OC)C(=O)O | C18H25NO5S
reactant | 4-methyl morpholine | 60 mmol, 6.6 ml, 1.1 eq | CN1CCOCC1 | C5H11NO
reactant | TPTU | 65.3 mmol, 19.4 g, 1.2 eq | [B-](F)(F)(F)F.CN(C)C(=[N+](C)C)ON1C=CC=CC1=O
reactant | sarcosine benzylester-hydrochloride | 59.8 mmol, 12.7 g | Cl.C(C1=CC=CC=C1)OC(CNC)=O
solvent | CH2Cl2 | C(Cl)Cl | CH2Cl2
product | (2S,4R)-2-(benzyloxycarbonylmethyl-methyl-carbamoyl)-4-(4-methoxy-benzylsulfanyl)-pyrrolidine-1-carboxylic acid tert-butyl ester | 14.2 g, 50% | C(C)(C)(C)OC(=O)N1[C@@H](C[C@H](C1)SCC1=CC=C(C=C1)OC)C(N(C)CC(=O)OCC1=CC=CC=C1)=O | C28H36N2O6S
